US09062004B2
Synthesis of 5-Methylamino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one
4-Chloro-5-methylamino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one (0.15 g, 0.5 mmoles) was dissolved in ethanol (20 mL) and 1M sodium hydroxide (1 ml) was added. 10% Palladium on charcoal (40 mg) was added and the reaction mixture was stirred overnight under a balloon of hydrogen. Filtered off the catalyst and evaporated to a low bulk. Partitioned between water and ethyl acetate, separated and dried over magnesium sulphate. Evaporated to give the required product as a buff solid. (0.125 g, 94%). 1H NMR (300 MHz CDCl3) 7.32 (d, 1H, J=3 Hz), 5.7 (d, 1H, J=3 Hz), 5.3 (m, 1H), 4.2 (brs, 1H), 2.85 (d, 3H, J=5 Hz), 1.55 (m, 4H), 1.3 (m, 1H), 1.15 (m, 1H), 1.15 (s, 6H), 0.95 (s, 6H).

reactant | 4-Chloro-5-methylamino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one | 0.5 mmoles, 0.15 g | ClC=1C(N(N=CC1NC)C1CC(CC(C1)(C)C)(C)C)=O | C15H24ClN3O
reactant | sodium hydroxide | 1M, 1 ml | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Palladium on charcoal | 40 mg | [Pd] | Pd
product | 5-Methylamino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one | CNC1=CC(N(N=C1)C1CC(CC(C1)(C)C)(C)C)=O | C15H25N3O
